US05047430
2,4-Dihydroxybenzaldehyde (14.5 g) was dissolved in ethanol (60 ml) and then thereto were added benzyl chloride (30 ml) and sodium carbonate (1.7 g), followed by reflux under heating for 5 hours. Insoluble matters were removed by filtration. The filtrate was allowed to stand for cooling and then the produced solid was collected by filtration and recrystallized from ethanol to obtain 2,4-dibenzyloxybenzaldehyde (20 g, yield 60%). Melting point: 89°-90° C.

reactant | 2,4-Dihydroxybenzaldehyde | 14.5 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | benzyl chloride | 30 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium carbonate | 1.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2,4-dibenzyloxybenzaldehyde | 20 g, yield 60% | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O3
